US06977263B2
B. 1-Ethyl-1H-indole-3-carboxylic acid.
A solution of 1-ethyl-1H-indole-3-carboxylic acid methyl ester (1.8 g, 8.8 mmol) was stirred in a 1:1 mixture of THF:MeOH (40 mL), and to this was added 2N NaOH (20 mL). The reaction was heated at reflux for 4 hours. The reaction mixture was partially evaporated to remove the THF, MeOH and the remaining material diluted with water (20 mL) and acidified to pH=2 with 1N HCl. The mixture was extracted with dichloromethane (100 mL), dried over sodium sulfate and evaporated under reduced pressure to give the title compound as a white solid, which was used directly in the next step.

reactant | 1-ethyl-1H-indole-3-carboxylic acid methyl ester | 8.8 mmol, 1.8 g | COC(=O)C1=CN(C2=CC=CC=C12)CC | C12H13NO2
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 1-Ethyl-1H-indole-3-carboxylic acid | C(C)N1C=C(C2=CC=CC=C12)C(=O)O | C11H11NO2
